US07709482B2
A mixture of the compound of formula (Dc), 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetic acid, (5.7 g, 26.1 mmol) and hydrazine hydrate (1.6 mL, 32.7 mmol) in 20 mL of ethanol was refluxed for 2 h, cooled and filtered (washed with small amount of EtOH) to give the compound of formula (Dd), 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one, as a white solid (4.7 g, 84%); 1H NMR (300 MHz, CDCl3) δ: 8.61 (bs, 1H), 7.53-7.14 (m, 4H), 2.98-2.75 (m, 3H), 2.58 (dd, J=15.3, 16.8 Hz, 1H), 2.31 (dd, J=12.0, 16.8 Hz, 1H), 1.96-1.59 (m, 4H); LC-MS: purity: 100%; MS (m/e): 215 (MH+).

reactant | 2-(5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-6-yl)acetic acid | 26.1 mmol, 5.7 g | O=C1C(CCCC2=C1C=CC=C2)CC(=O)O | C13H14O3
reactant | hydrazine hydrate | 32.7 mmol, 1.6 mL | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one | N=1NC(CC2C1C1=C(CCC2)C=CC=C1)=O | C13H14N2O
